US04496571
A mixture of 4-(3-propylthioureido)-2-(5-phthalimidopentyl)pyrimidine (1.7 g.), DMF (25 ml.) saturated ethanolic ammonia (10 ml.) and yellow mercuric oxide (1.1 g.) was stirred at room temperature for 2 hours. The mixture was evaporated to dryness and the residue was redissolved in ethanol, filtered and the filtrate evaporated to dryness. A solution of this residue in EtOH (20 ml.) was treated with hydrazine (5 ml.) and stirred at room temperature for 16 hours. The mixture was evaporated to dryness and the residue was dissolved in water, acidified with 2 N aqueous HC1 and filtered. The filtrate was basified with 10 N aqueous NaOH and the mixture was extracted twice with EtOAc. The extract was dried (MgSO4) and evaporated to give 4-[2-propylguanidino]-2-(5-aminopentyl)pyrimidine as a gum (0.4 g.) which was used without further purification.

reactant | 4-(3-propylthioureido)-2-(5-phthalimidopentyl)pyrimidine | 1.7 g | C(CC)NC(NC1=NC(=NC=C1)CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)=S | C21H25N5O2S
reactant | ammonia | 10 ml | N | H3N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-[2-propylguanidino]-2-(5-aminopentyl)pyrimidine | C(CC)N=C(NC1=NC(=NC=C1)CCCCCN)N | C13H24N6
